2176-11-22 10:47:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Malignancy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2176-11-21**] 10:28 AM
 ULTRASOUND - At [**2176-11-21**] 03:14 PM
   abdominal US
   CT-no evidence of CNS lesion
   Abdominal Ultrasound--extensive metastatic lesions seen
   Full Code Status confirmed
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Cephalosporins
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2176-11-21**] 06:49 AM
   Meropenem - [**2176-11-22**] 06:15 AM
   Vancomycin - [**2176-11-22**] 08:00 AM
   Levofloxacin - [**2176-11-22**] 10:13 AM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-11-22**] 08:30 AM
   Famotidine (Pepcid) - [**2176-11-22**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2176-11-22**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 79 (74 - 89) bpm
   BP: 97/50(61) {83/37(46) - 125/89(99)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (11 - 20)mmHg
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  1,905 mL
                                                                  1,054 mL
   PO:
   TF:
   IVF:
                                                                  1,530 mL
                                                                  1,054 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    900 mL
                                                                    440 mL
   Urine:
                                                                    900 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,005 mL
                                                                    614 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
Diffuse crackles seen
   Abdominal: Soft, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   362 K/uL
   106 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.1 mEq/L
   31 mg/dL
   105 mEq/L
   137 mEq/L
   30.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2176-11-21**]  12:56 PM
                             [**2176-11-21**]  08:03 PM
                             [**2176-11-22**]  03:57 AM
   WBC
   13.2
   11.7
   Hct
   26.2
   30.0
   30.7
   Plt
   323
   362
   Cr
   0.8
   0.7
   TropT
   <0.01
   Glucose
   99
   106
   Other labs: PT / PTT / INR:21.4/34.1/2.0, CK / CKMB /
   Troponin-T:173/3/<0.01, ALT / AST:45/139, Alk Phos / T Bili:263/0.6,
   Differential-Neuts:79.9 %, Lymph:11.2 %, Mono:7.2 %, Eos:1.5 %,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Imaging: ECHO--dilated RV without evidence of TR or PAH.  EF=60-70%
   Microbiology: Blood Cultures-Pending
   Assessment and Plan
   75 yo female admit with sepsis and concern for pneumonia and with
   extensive findings on abdominal exam concerning for mass lesion patient
   moved to abdominal ultrasound which did demonstrate extensive
   malignancy and this is a new finding for her and currently primary
   lesion is unknown.
   1)Hepatomegaly with multiple liver masses ?mets
With current tumor
   markers we need to consider this perhaps most likely secondary to
   ovarian cancer.
   -With extensive metastases we will need to consider any intervention in
   light of patient wishes and expectation for prognosis.
   -The prognosis here is certainly poor
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   -Patient alert and interactive this morning
   -Did appear to take in the news of metastatic malignancy with
   appropriate overwhelm
 PNEUMONIA, ASPIRATION
 Sepsis-
   -Levophed
   -vanco/meropenem to continue
   -Will work to wean pressors as possible
this would appear to be
   hypotension due to persistent and signficiant vasodilation with some
   contribution from extensive metastatic lesions contributing but is
   primarily sepsis at this time with aspiraiton pneumonia considered most
   likely source.
 HYPOXEMIA
 ANEMIA, OTHER
 DYSPHAGIA
   ICU Care
   Nutrition: Will have to pursue PO intake with speech and swallow
   support
patient was too somnolent yesterday but much improved today.
   Glycemic Control:
   Lines:
   Presep Catheter - [**2176-11-21**] 04:47 AM
   22 Gauge - [**2176-11-21**] 05:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Discussed with health care proxy the current
   clinical findings and he will pursue possible DNR/DNI status which is
   felt to be consistent with her wishes in this situation but will remain
   full code until that discussion is concluded
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2176-11-23 07:28:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -reversed to DNR/DNI
   -may be made CMO next week
   -CT torso showed widely metastatic disease, including large mass in
   lung, liver, adrenal, LNs
   -p02 low on pm abg, increase to FM
   -s/s never placed new note
   -pulled CVL, new one placed
   -?consult h/o in am
   -off pressors in pm
   -desatted to 82% when pulled off FM.  Very agitated overall. Gave 2.5
   of Zydis.
 PRESEP CATHETER - STOP [**2176-11-22**] 01:24 PM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2176-11-22**]
   01:30 PM
 MULTI LUMEN - START [**2176-11-22**] 02:00 PM
   Allergies:
   Cephalosporins
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2176-11-21**] 06:49 AM
   Levofloxacin - [**2176-11-22**] 10:13 AM
   Vancomycin - [**2176-11-22**] 08:23 PM
   Meropenem - [**2176-11-23**] 12:20 AM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-11-22**] 08:30 AM
   Furosemide (Lasix) - [**2176-11-22**] 03:00 PM
   Famotidine (Pepcid) - [**2176-11-22**] 08:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-23**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.6
   HR: 88 (75 - 104) bpm
   BP: 105/51(63) {77/36(46) - 122/80(91)} mmHg
   RR: 25 (16 - 28) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.4 kg (admission): 57.5 kg
    CVP: 7 (3 - 14)mmHg
   Total In:
                                                                  1,566 mL
                                                                    315 mL
   PO:
   TF:
   IVF:
                                                                  1,566 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    370 mL
   Urine:
                                                                  1,435 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    131 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 90%
   ABG: 7.37/45/51/22/0 at 9pm last night
   PaO2 / FiO2: 102
   Physical Examination
   Gen: sleeping, easily aroused
   CV: rrr nl s1/s2 no mrg
   Pulm: crackles half way up lungs
   Abd: +BS, soft, NTND
   Ext: no edema
   Labs / Radiology
   325 K/uL
   10.2 g/dL
   226 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.8 mEq/L
   23 mg/dL
   101 mEq/L
   131 mEq/L
   31.7 %
   12.4 K/uL
        [image002.jpg]
                             [**2176-11-21**]  12:56 PM
                             [**2176-11-21**]  08:03 PM
                             [**2176-11-22**]  03:57 AM
                             [**2176-11-22**]  09:44 PM
                             [**2176-11-23**]  03:04 AM
   WBC
   13.2
   11.7
   12.4
   Hct
   26.2
   30.0
   30.7
   31.7
   Plt
   [**Telephone/Fax (3) 11929**]
   Cr
   0.8
   0.7
   0.8
   TropT
   <0.01
   TCO2
   27
   Glucose
   99
   106
   226
   Other labs: PT / PTT / INR:21.4/40.3/2.0, CK / CKMB /
   Troponin-T:173/3/<0.01, ALT / AST:45/139, Alk Phos / T Bili:263/0.6,
   Differential-Neuts:79.9 %, Lymph:11.2 %, Mono:7.2 %, Eos:1.5 %,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Blood cultures pending
   Urine culture
 final
 No growth
   No CXR today
   [**2176-11-22**]:
   CT OF THE CHEST WITH IV CONTRAST:
   The thyroid gland is normal. No axillary lymphadenopathy present.
   Within the
   mediastinum, there are two enlarged enhancing lymph nodes, specifically
   pretracheal node measuring 15 mm and a prevascular node measuring 12
   mm. There
   is also right and left anterior descending coronary artery
   calcification,
   pericardial fat, and a left hilar mass with probable left lymphangitic
   spread
   into the left upper lobe. This most likely represents the primary lung
   malignancy.  There is also a left greater than right pleural effusions
   with some
   atelectasis of the bilateral lower lobes. Right jugular catheter ending
   in
   right atrium.
   CT OF THE ABDOMEN WITH IV CONTRAST:
   The liver is diffusely enlarged with a large necrotic 46 x 46 mm mass
   in
   segment VI. There are numerous hypodense lesions, with enhancing rim
   representing metastases within the liver. The left adrenal, both
   kidneys,
   pancreas, gallbladder, and spleen are unremarkable. Within the right
   adrenal,
   there is a 21 x 12 mm mass suspicious for adrenal metastases. Also a 13
   x 20
   mm hepatic portal lymph node. Multiple similar nodes are seen
   throughout the
   abdomen. There is diffuse ascites throughout the abdomen. The
   visualized
   small and large bowel appears unremarkable, although there is diffuse
   mesenteric stranding and fluid throughout the abdomen.   Within the
   soft tissues of the abdomen,
    there is a 14 x 0.5 x 21 mm enhancing nodule anteriorly to the left
   (3:64). This is probably the most
   accessible site for biopsy.
   CT OF THE PELVIS WITH IV CONTRAST:
   The rectum is dilated with stool. The sigmoid colon and bladder are
   unremarkable. There is pelvic free fluid present. The patient is status
   post
   hysterectomy and bilateral oophorectomy. No pelvic lymph nodes are
   present.
   There is no inguinal lymphadenopathy present either.
   OSSEOUS STRUCTURES: There is a right femoral prosthesis. Otherwise,
   several
   benign-looking sclerotic lesions are seen within the lumbar spine and
   sacral
   ala. No osseous metastases are present.
   IMPRESSION:
   1. Left hilar mass with upper lobe lymphangitic spread concerning for a
   primary lung malignancy.
   2. Left greater than right pleural effusions.
   3. Numerous diffuse metastases within the liver and right adrenal
   gland.
   4. Left anterior abdominal wall subcutaneous metastasis
   Assessment and Plan
   75 year old woman with h/o dementia and CHF who presented with hypoxia,
   dyspnea, and septic shock.
   # Septic Shock: Patient presented with hypotension requiring pressors.
   Met SIRS criteria with leukocytosis > 12K, RR>20.  Most likely a
   pulmonary source given history of pneumonia in the past, LLL infiltrate
   on CXR, and presentation of hypoxia and dyspnea.  Less likely urinary
   source given relatively clean UA (although this was after Abx).  Was
   given Levaquin/Vancomycin/Imipenem in the [**Hospital1 1294**] ED.
   - volume cautiously as she is dnr/dni
   - cont levophed goal MAP >65
   - Will monitor urine output, CVP, mental status, pressor requirement to
   assess fluid resuscitation goals
   - f/u ctxs
   - continue  Vancomycin/Meropenem /Levaquin for likely bacterial
   pathogens to cause pneumonia, now day 2
   - unclear why patient was given hydrocortisone at [**Last Name (LF) 1294**], [**First Name3 (LF) **] not
   continue for now
   # Congestive Heart Failure:  Evidence of volume overload on exam and
   chest xray.  TTE shows EF60-70%.
   - monitor respiratory status closely with fluid resuscitation
   - lasix IV X1 now (1530) since patient dropped sats
   # Hypoxia/Respiratory Distress: Originally presented with hypoxia and
   dyspnea, likely related to pneumonia.
   - Antibiotics as above
   - Wean O2 as tolerated
    # increased LFTS: appears to be metastatic disease given elevated
   CA125 and findings on u/s
   -CT torso when able
   -will help with determining prognosis and goals of care
   # Weakness on neurologic exam:
   Likely that RLE weakness may be due to h/o right hip fracture.  Per
   collateral information from family, she has not been able to walk since
   her hip fracture.
   # Anemia: Has hematocrit of 30 and stable after 2 units PRBCs.  Unclear
   how chronic this process is.
   - Guaiac all stools
   - daily Hct
   - active type and screen
   # History of SIADH: Serum Na currently within normal limits.
   - Monitor serum Na daily
   # Elevated INR:
   Suspect this may be nutritional as she has no known history of liver
   disease.
   # COPD:  continue albuterol
   # Dementia:  patient is at high risk for delirium in house
   - monitor
   ICU Care
   Nutrition: NPO for now pending respiratory/hemodynamic improvement
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-11-22**] 02:00 PM
 replaced IJ yesterday as she pulled
   it out
   20 Gauge - [**2176-11-22**] 03:35 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:
   VAP:
   Comments: Bowel regimen with docusate/senna
   Communication:  Comments: Attorney legal guardian [**Name (NI) **] [**Name (NI) 11893**]
   [**Telephone/Fax (1) 11894**] cell, [**Telephone/Fax (1) 11895**]. Appointed by the court since patient
   has mentall ill daughter who is not competent to make decisions per
   reports from OSH.
   Code status: DNR/DNI changed yesterday
   Disposition: ICU for now

2176-11-24 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Gave some 20mg IV lasix, diuresed 80cc/hr x 3hours
   - Called and updated health care proxy.  Informed him of likely
   metastatic cancer diagnosis based on CT.  He reaffirmed that he has
   court date on Monday and will likely ask for permission to choose
   comfort care for Ms [**Known lastname 11892**] in light of cancer diagnosis and other
   confounders.  Questions answered and plans to call hospital on Monday.
   Continue DNR/DNI.
   - Unable to wean Levophed
   No other events
   Allergies:
   Cephalosporins
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2176-11-21**] 06:49 AM
   Levofloxacin - [**2176-11-23**] 10:00 AM
   Vancomycin - [**2176-11-23**] 08:30 PM
   Meropenem - [**2176-11-24**] 05:59 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2176-11-23**] 02:39 PM
   Famotidine (Pepcid) - [**2176-11-23**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2176-11-23**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-24**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 96 (89 - 102) bpm
   BP: 105/50(64) {89/40(52) - 112/60(72)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.4 kg (admission): 57.5 kg
    CVP: 4 (2 - 11)mmHg
   4 at 6am
   Total In:
                                                                  1,500 mL
                                                                    339 mL
   PO:
                                 TF:
   IVF:
                                                                  1,500 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    300 mL
   Urine:
                                                                  1,210 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    290 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool on 50% FiO2
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Gen: awake, oriented only to person, lying comfortably in bed
   CV: RRR, nl S1, S2, no m/r/g
   Pulm: Crackles at bases b/l
   Abd: soft, distended, NT, hard sub
   Labs / Radiology
   332 K/uL
   10.1 g/dL
   89 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   20 mg/dL
   106 mEq/L
   139 mEq/L
   31.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2176-11-21**]  12:56 PM
                             [**2176-11-21**]  08:03 PM
                             [**2176-11-22**]  03:57 AM
                             [**2176-11-22**]  09:44 PM
                             [**2176-11-23**]  03:04 AM
                             [**2176-11-23**]  05:10 PM
                             [**2176-11-24**]  04:33 AM
   WBC
   13.2
   11.7
   12.4
   10.7
   Hct
   26.2
   30.0
   30.7
   31.7
   31.6
   Plt
   [**Telephone/Fax (3) 11941**]32
   Cr
   0.8
   0.7
   0.8
   0.8
   0.9
   TropT
   <0.01
   TCO2
   27
   Glucose
   99
   106
   226
   91
   89
   Other labs: PT / PTT / INR:27.0/47.6/2.6, CK / CKMB /
   Troponin-T:173/3/<0.01, ALT / AST:45/139, Alk Phos / T Bili:263/0.6,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:1.0
   %, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   BCx [**11-21**] x3 pending
   UCx [**11-21**] neg
   CXR this AM
   Assessment and Plan
   75 year old woman with h/o dementia and CHF who presented with hypoxia,
   dyspnea, and septic shock, found to have extensive metastatic disease
   with unknown primary.
   # Metastatic Disease: CT shows LUL mass concerning for primary lung
   malignancy and extensive metastatic disease including mets to liver,
   adrenals and abdominal wall. However elevated CA125 more suggestive of
   primary ovarian malignancy.
   -will need goals of care discussion on Monday pending HCP decision with
   court next week
   # Sepsis: Patient with persistent hypotension requiring pressors.  Met
   SIRS criteria with leukocytosis > 12K, RR>20.  Most likely a pulmonary
   source given history of pneumonia in the past, LLL infiltrate on CXR,
   and presentation of hypoxia and dyspnea.  Less likely urinary source
   given relatively clean UA (although this was after Abx.  Patient also
   with new finding of aspiration, making aspiration most likely cause of
   pneumonia
   - volume cautiously as she is dnr/dni
   - cont levophed goal MAP >65, wean as tolerated
   - Will monitor urine output, CVP, mental status, pressor requirement to
   assess fluid resuscitation goals
   - f/u pending cultures
   - continue  Vancomycin/Levaquin for likely bacterial pathogens to cause
   pneumonia, now day 4 of 8; will d/c meropenem today
   - NPO as pt grossly aspirating
   .
   # Dementia:  Pt confused at baseline and is at high risk for delirium
   in house; will monitor closely.
   - treat with low-dose antipsychotics as needed
   .
   # Hypoxia: Most likely secondary to lymphangitic spread of malignancy,
   as seen on Chest CT, with possible contributions from pulm edema and
   aspiration .
   -Will wean O2 as tolerated
   .
   # Congestive Heart Failure:  Evidence of volume overload on exam and
   chest xray.  TTE shows EF60-70%.
   - monitor respiratory status closely with fluid resuscitation
   - lasix IV as needed for volume overload, worsening dyspnea, hypoxia
   # Anemia: Hematocrit stable
   - Guaiac all stools
   - daily Hct
   - active type and screen
   # History of SIADH: Serum Na now improved at 139.
   - Monitor serum Na daily
   # Elevated INR: Suspect this may be nutritional and decreased synthetic
   function of liver
   # COPD:  Continue albuterol
   ICU Care
   Nutrition: NPO for now given gross aspiration
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-11-22**] 02:00 PM
   20 Gauge - [**2176-11-22**] 03:35 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:  H2 blocker
   VAP:
   Comments: bowel regimen with colace and senna
   Communication:  Comments: Court-appointed legal guardian
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: [**Hospital Unit Name 1**]

2176-11-25 07:30:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] resident progress note
   Chief Complaint: Hypoxia, respiratory distress
   24 Hour Events:
   - Spoke with patient's attorney (not HCP) regarding goals of care and
   prognosis.  She will be present at court hearing tomorrow to determine
   if she should be made CMO
   - Updated patient's daughter, does not seem to understand the severity
   of her mother's illness
   - Spoke with health care proxy today
   - [**Name (NI) 11962**] for low CVP (5) - rec'd 500 cc x2
   - Sent UA for cloudy urine - showed uric acid crystals.  Added on serum
   uric acid
   - Discontinued meropenem
   - Given 20mg IV lasix for respiratory distress
 URINE CULTURE - At [**2176-11-24**] 03:17 PM
   Allergies:
   Cephalosporins
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2176-11-24**] 09:52 AM
   Meropenem - [**2176-11-24**] 01:00 PM
   Vancomycin - [**2176-11-24**] 08:24 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-11-24**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2176-11-24**] 08:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-25**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 112 (89 - 112) bpm
   BP: 107/40(57) {90/40(53) - 107/57(68)} mmHg
   RR: 24 (14 - 25) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78 kg (admission): 57.5 kg
    CVP: 9 (6 - 11)mmHg
   Total In:
                                                                  2,443 mL
                                                                    140 mL
   PO:
   TF:
   IVF:
                                                                  2,443 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    175 mL
   Urine:
                                                                    625 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,818 mL
                                                                    -35 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   Gen: awake, oriented only to person, lying comfortably in bed
   CV: RRR, nl S1, S2, no m/r/g
   Pulm: Crackles at bases b/l
   Abd: soft, distended, NT, hard sub
   Labs / Radiology
   318 K/uL
   10.5 g/dL
   110 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.0 mEq/L
   19 mg/dL
   106 mEq/L
   138 mEq/L
   33.1 %
   12.1 K/uL
        [image002.jpg]
                             [**2176-11-21**]  12:56 PM
                             [**2176-11-21**]  08:03 PM
                             [**2176-11-22**]  03:57 AM
                             [**2176-11-22**]  09:44 PM
                             [**2176-11-23**]  03:04 AM
                             [**2176-11-23**]  05:10 PM
                             [**2176-11-24**]  04:33 AM
                             [**2176-11-25**]  04:04 AM
   WBC
   13.2
   11.7
   12.4
   10.7
   12.1
   Hct
   26.2
   30.0
   30.7
   31.7
   31.6
   33.1
   Plt
   [**Telephone/Fax (3) 11941**]32
   318
   Cr
   0.8
   0.7
   0.8
   0.8
   0.9
   1.2
   TropT
   <0.01
   TCO2
   27
   Glucose
   99
   106
   226
   91
   89
   110
   Other labs: PT / PTT / INR:33.1/47.6 (yesterday)/3.4, CK / CKMB /
   Troponin-T:173/3/<0.01, ALT / AST:33/140, Alk Phos / T Bili:257/0.5,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:1.0
   %, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
                                                                [**2176-11-24**]
                                                                     3:06p
   _______________________________________________________________________
   Source: Catheter
   Color
   Yellow
   Appear
   Cloudy
   SpecGr
   1.019
   pH
   5.0
   Urobil
   2
   Bili
   Neg
   Leuk
   Tr
   Bld
   Tr
   Nitr
   Neg
   Prot
   30
   Glu
   Neg
   Ket
   Tr
   RBC
   8
   WBC
   1
   Bact
   Many
   Yeast
   None
   Epi
   8
   Amorph
   Rare
   Other Urine Counts
   Uric-AX: Many
   Mucous: Rare
   UricA:14.7
[**2176-11-24**] 3:06 pm URINE      Source: Catheter.
      URINE CULTURE (Pending):
   [**2176-11-21**] blood culture pending
   [**11-21**] urine cx
 no growth
   CXR pending
   ABG pending
   Added on LFTs
   Assessment and Plan
   75 year old woman with h/o dementia and CHF who presented with hypoxia,
   dyspnea, and septic shock, found to have extensive metastatic disease
   with unknown primary.
   # Metastatic Disease: CT shows LUL mass concerning for primary lung
   malignancy and extensive metastatic disease including mets to liver,
   adrenals and abdominal wall.
   -will need goals of care discussion on Monday pending HCP decision with
   court next week
   # Sepsis: Patient with persistent hypotension requiring pressors.  Met
   SIRS criteria with leukocytosis > 12K, RR>20.  Most likely a pulmonary
   source given history of pneumonia in the past, LLL infiltrate on CXR,
   and presentation of hypoxia and dyspnea.  Less likely urinary source
   given relatively clean UA (although this was after Abx.  Patient also
   with new finding of aspiration, making aspiration most likely cause of
   pneumonia
   - volume cautiously as she is dnr/dni
   - cont levophed goal MAP >65, wean as tolerated
   - Will monitor urine output, CVP, mental status, pressor requirement to
   assess fluid resuscitation goals
   - f/u pending cultures
   - continue  Vancomycin/Levaquin for likely bacterial pathogens to cause
   pneumonia, now day 4 of 8; will d/c meropenem today
   - NPO as pt grossly aspirating
   .
   # Elevated coags: Suspect this may be nutritional and decreased
   synthetic function of liver, also possibly DIC or tumor lysis
   - Add on DIC labs
   - Check LFTs daily
   .
   # Dementia:  Pt confused at baseline and is at high risk for delirium
   in house; will monitor closely.
   - treat with low-dose antipsychotics as needed
   .
   # Hypoxia: Most likely secondary to lymphangitic spread of malignancy,
   as seen on Chest CT, with possible contributions from pulm edema and
   aspiration .
   -Will wean O2 as tolerated
   .
   # Congestive Heart Failure:  Evidence of volume overload on exam and
   chest xray.  TTE shows EF60-70%.
   - monitor respiratory status closely with fluid resuscitation
   - lasix IV as needed for volume overload, worsening dyspnea, hypoxia
   # Anemia: Hematocrit stable
   - Guaiac all stools
   - daily Hct
   - active type and screen
   # History of SIADH: Serum Na now improved at 138.
   - Monitor serum Na daily
   # COPD:  Continue albuterol
   ICU Care
   Nutrition: NPO for now given gross aspiration
   Glycemic Control:  None
   Lines: Multi Lumen - [**2176-11-22**] 02:00 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:  H2 blocker
   VAP:
   Comments: bowel regimen with bisacodyl
   Communication:  Comments: Court-appointed legal guardian
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: [**Hospital Unit Name 1**]